US08466282B2
(3R,5S)-1-(tert-butoxycarbonyl)-5-[{[5-(hydroxymethyl)-1-phenyl-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]piperidine-3-carboxylic acid
1-tert-Butyl 3-methyl(3R,5S)-5-[{[5-(hydroxymethyl)-1-phenyl-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]piperidine-1,3-dicarboxylate (2.25 g) was dissolved in THF (10 ml)-methanol (10 ml)-water (8 ml), 8M aqueous sodium hydroxide solution (1.5 ml) was added and the reaction mixture was stirred at room temperature for 3 hr. The reaction mixture was neutralized with saturated aqueous ammonium chloride solution, acidified with 1M hydrochloric acid and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the object product (2.18 g).

reactant | 1-tert-Butyl 3-methyl(3R,5S)-5-[{[5-(hydroxymethyl)-1-phenyl-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]piperidine-1,3-dicarboxylate | 2.25 g | OCC1=C(N=NN1C1=CC=CC=C1)C(=O)N([C@H]1C[C@H](CN(C1)C(=O)OC(C)(C)C)C(=O)OC)CC(C)C | C26H37N5O6
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 8 ml | O | H2O
solvent | sodium hydroxide | 8M, 1.5 ml | [OH-].[Na+]
product | (3R,5S)-1-(tert-butoxycarbonyl)-5-[{[5-(hydroxymethyl)-1-phenyl-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]piperidine-3-carboxylic acid | 2.18 g | C(C)(C)(C)OC(=O)N1C[C@@H](C[C@@H](C1)N(CC(C)C)C(=O)C=1N=NN(C1CO)C1=CC=CC=C1)C(=O)O | C25H35N5O6
